US06903129B2
A mixture of 170 mg (0.5 mmol) (R)-1-[6-[(R)-2-carboxy-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid and 54 mg Amberlite® IR120 in 10 ml propanol were stirred at room temperature for 48 hours. After filtration the solvent was distilled off, the residue was taken up in dichloromethane and extracted with 2% aqueous sodium bicarbonate. The organic extract was dried with sodium sulfate and the solvent was distilled off to yield 65 mg (31%) (R)-1-{6-oxo-6-[(R)-2-propoxycarbonyl-pyrrolidin-1-yl]-hexanoyl}-pyrrolidine-2-carboxylic acid propyl ester as alight yellow oil, MS m/e (%): 424 (M+, 3), 268 (100), 156 (21), 70 (69).

reactant | (R)-1-[6-[(R)-2-carboxy-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid | 0.5 mmol, 170 mg | C(=O)(O)[C@@H]1N(CCC1)C(CCCCC(=O)N1[C@H](CCC1)C(=O)O)=O | C16H24N2O6
solvent | propanol | 10 ml | C(CC)O | C3H8O
product | (R)-1-{6-oxo-6-[(R)-2-propoxycarbonyl-pyrrolidin-1-yl]-hexanoyl}-pyrrolidine-2-carboxylic acid propyl ester | 65 mg, 31% | C(CC)OC(=O)[C@@H]1N(CCC1)C(CCCCC(N1[C@H](CCC1)C(=O)OCCC)=O)=O | C22H36N2O6
